### ISSUE TITLE
unfold tactic doesn't work following change with wildcard

### ISSUE THREAD

**Issue by robertylewis** [leanprover/lean3#1686]
### Prerequisites

* [ x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean/issues).
        * Specifially, check out the [wishlist](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3AI-wishlist), open [RFCs](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3ARFC),
        or [feature requests](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3AFeature).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

```lean
def f (n : ℕ) := n + n
def g (n : ℕ) := 2*n

example (n : ℕ) : g (n+1) = f n + 2 :=
begin
 change 2 * (n + 1) = f n + 2, -- goal : 2 * (n + 1) = f n + 2
 unfold f, -- goal : 2 * (n + 1) = n + n + 2
end

example (n : ℕ) : g (n+1) = f n + 2 :=
begin
 change g (n + 1) with 2 * (n+1), -- goal : 2 * (n + 1) = f n + 2
 unfold f, -- goal : 2 * (n + 1) = n + n + 2
end

-- this one doesn't unfold f, but the printed goal looks the same
example (n : ℕ) : g (n+1) = f n + 2 :=
begin
 change 2 * (n + 1) = _, -- goal : 2 * (n + 1) = f n + 2
 unfold f, -- goal : 2 * (n + 1) = f n + 2
end
```
The first two examples work as expected: the first tactic unfolds `g` and the second unfolds `f`. In the third example, `unfold f` succeeds but doesn't change the goal. Even with `pp.all true`, the goals after `change` in all three examples look identical.

I don't know how `change` with wildcards is implemented, but somehow it seems to be blocking `unfold`.

### Steps to Reproduce

**Expected behavior:** [What you expect to happen]

**Actual behavior:** [What actually happens]

**Reproduces how often:** [What percentage of the time does it reproduce?]
100%

### Versions
3.2.1, commit 16c6e0ffafe7

### Additional Information

Any additional information, configuration or data that might be necessary to reproduce the issue.

**Comment by digama0** [comment]
The problem is that `tactic.change` will put the given term directly as the goal, even if it contains instantiated metavars. `instantiate_mvars` should fix this, but I haven't yet figured out where to put it.

**Comment by robertylewis** [comment]
Thanks!
